US06660744B1
To a mixture of 1-benzhydryl-3-azetanol (7.5 g, 0.031 mol) and di-tert-butyl dicarbonate (10.3 g, 0.047 mol), was added 20% palladium hydroxide on carbon (1.0 g) in ethyl acetate (200 mL). The mixture was shaken under hydrogen at room temperature for 20 hours in a Parr-hydrogenation apparatus. The mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel using dichloromethane followed by methanol/dichloromethane (5:95) as mobile phase to yield tert-butyl 3-hydroxy-1-azetanecarboxylate (5.015 g, 0.029 mol).

reactant | 1-benzhydryl-3-azetanol | 0.031 mol, 7.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | di-tert-butyl dicarbonate | 0.047 mol, 10.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide on carbon | 1.0 g | [OH-].[OH-].[Pd+2]
product | tert-butyl 3-hydroxy-1-azetanecarboxylate | 0.029 mol, 5.015 g | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
